US07662771B2
5-[5-(5-chloro-2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid
Add a solution of LiOH.H2O (2.14 g, 51.0 mmol) in water (30 mL) to a rapidly stirred solution of 5-[5-(5-chloro-2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester (3.30 g, 10.2 mmol) in dioxane (60 mL), stir at room temperature overnight. After 1 hour, acidify to pH 1 with 5N HCl solution and place in refrigerator. Filter out solids and rinse with water to afford the title compound (2.73 g, 91%). MS (IS) 296 (M+1)+.

reactant | LiOH.H2O | 51.0 mmol, 2.14 g | O[Li].O
reactant | 5-[5-(5-chloro-2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid ethyl ester | 10.2 mmol, 3.30 g | C(C)OC(CCCCC1=NOC(=C1)C1=C(C=CC(=C1)Cl)O)=O | C16H18ClNO4
reactant | HCl | 5N | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 5-[5-(5-chloro-2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid | 2.73 g, 91% | ClC=1C=CC(=C(C1)C1=CC(=NO1)CCCCC(=O)O)O | C14H14ClNO4
